US07476759B2
Benzyl 4-amino-3-(4-bromophenyl)-4-oxobutanoate
Di-iso-propylethylamine (3.21 g, 4.33 mL, 24.8 mmol) was added in one portion to a stirred suspension of 4-(benzyloxy)-2-(4-bromophenyl)-4-oxobutanoic acid (2.25 g, 6.21 mmol), ammonium chloride (0.332 g, 6.21 mmol) and N-[(Dimethylamino)-1H-1,2,3-triazolo[4,5-b]pyridin-1-ylmethylene]-N-methylmethanaminium hexafluorophosphate N-oxide (2.36 g, 6.21 mmol) in dimethylformamide (40 mL) at room temperature under nitrogen. After stirring for 2 h the volatiles were evaporated and the residue partitioned between dichloromethane (50 mL) and aqueous hydrochloric acid solution (1.0 M; 50 mL). The phases were separated and the aqueous layer washed with dichloromethane (2×50 mL). The organic phases were combined, dried (magnesium sulfate) and evaporated to dryness. The residue was chromatographed on silica gel (5% methanol: dichloromethane) to give the title compound as a white solid (1.14 g, 51%). LC/MS: 3.20 min; z/e 362 and 364, calcd (M+1) 362 and 364. 1H NMR (400 MHz: CDCl3): 7.45 (2H), 7.30 (5H), 7.15 (2H), 5.45 (2H), 5.10 (2H), 3.95 (1H), 3.30 (1H), 2.70 (1H).

reactant | Di-iso-propylethylamine | 24.8 mmol, 4.33 mL, 3.21 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(benzyloxy)-2-(4-bromophenyl)-4-oxobutanoic acid | 6.21 mmol, 2.25 g | C(C1=CC=CC=C1)OC(CC(C(=O)O)C1=CC=C(C=C1)Br)=O | C17H15BrO4
reactant | ammonium chloride | 6.21 mmol, 0.332 g | [Cl-].[NH4+]
reactant | N-[(Dimethylamino)-1H-1,2,3-triazolo[4,5-b]pyridin-1-ylmethylene]-N-methylmethanaminium hexafluorophosphate N-oxide | 6.21 mmol, 2.36 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | Benzyl 4-amino-3-(4-bromophenyl)-4-oxobutanoate | 1.14 g, 51% | NC(C(CC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)Br)=O | C17H16BrNO3
